US05346647
A mixture of 54 g of (4-butyloxyphenyl)methyl-triphenylphosphonium bromide and 450 ml of absolute t-butyl methyl ether was treated with 12 g of solid potassium t-butylate at 0° C. and while gassing with nitrogen. After completion of the addition the reaction mixture was stirred at 0° C. for a further 15 minutes (whereby a deep orange coloration resulted) and then treated within 30 minutes at 0° C. with a solution of 15 g of 3-(trans-4-pentylcyclohexyl)propionaldehyde in 150 ml of absolute t-butyl methyl ether. Subsequently, the reaction mixture was stirred at room temperature overnight and then poured into 1000 ml of water and extracted three times with 200 ml of diethyl ether each time. The organic phases were washed twice with 500 ml of concentrated sodium chloride solution each time, dried over magnesium sulfate, filtered and subsequently concentrated. Chromatography of the residue on silica gel with hexane/toluene (vol. 4:1) gave 21 g of 1-butyloxy-4-[4-(trans-4 -pentylcyclohexyl)-1-butenyl]benzene (cis/trans mixture). Recrystallization from ethanol gave pure trans isomer with m.p. (C-SB) 46° C., SB --SA 74° C., SA --N 76° C. and cl.p. (N--I) 91° C.

reactant | (4-butyloxyphenyl)methyl-triphenylphosphonium bromide | 54 g | [Br-].C(CCC)OC1=CC=C(C=C1)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | 3-(trans-4-pentylcyclohexyl)propionaldehyde | 15 g | C(CCCC)[C@@H]1CC[C@H](CC1)CCC=O | C14H26O
reactant | water | 1000 ml | O | H2O
solvent | t-butyl methyl ether | 150 ml | COC(C)(C)C | C5H12O
solvent | t-butyl methyl ether | 450 ml | COC(C)(C)C | C5H12O
product | 1-butyloxy-4-[4-(trans-4 -pentylcyclohexyl)-1-butenyl]benzene | 21 g | C(CCC)OC1=CC=C(C=C1)C=CCC[C@@H]1CC[C@H](CC1)CCCCC | C25H40O
